US04504484
N-(n-propyl)-2,4,6-trichlorophenoxyacetamide, 44.0 gm, was added to 250 ml of toluene. 28 ml of borane methyl sulfide [BH3.(CH3)2S] (2 equivalents) was then slowly added to the system. The system was heated at approximately 60° C. for 15 hours at which time reaction completion was checked by IR spectroscopy. 200 ml of methanol was then slowly added to the system. After addition of the methanol, the system was acidified by bubbling in HCl gas. Afterwards, the system was refluxed for 1 hour. The solvent was then removed by stripping. The resulting oil was dissolved in methanol which was then stripped. The oil was next dissolved in methylene chloride. The organic solution was washed with a sodium hydroxide solution and then with water. The methylene chloride was removed by stripping to give 36.3 gm of the N-(n-propyl) ethanolamine 2,4,6-trichlorophenylether, as a yellow oil.

reactant | N-(n-propyl)-2,4,6-trichlorophenoxyacetamide | C(CC)NC(COC1=C(C=C(C=C1Cl)Cl)Cl)=O | C11H12Cl3NO2
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | borane methyl sulfide | 28 ml, 2 equivalents | CSC.B
solvent | methanol | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | N-(n-propyl) ethanolamine 2,4,6-trichlorophenylether | 36.3 gm | ClC1=C(C(=CC(=C1)Cl)Cl)OCCNCCC | C11H14Cl3NO
